US06476038B1
J. 7-(2-(Cyclohexylamino)ethylamino)-2,5-dimethyl-3-(4-chloro-2,6-dimethylphenyl)-pyrazolo[1,5-a] pyrimidine
Dissolve 7-(2-aminoethylamino)-2,5-dimethyl-3-(4-chloro-2,6-dimethylphenyl)-pyrazolo [1,5-a] pyrimidine (0.183 g, 5.4×10−4 mol, 339.2 g/mol) in dichloroethane (5 mL) and add cyclohexanone (100.12 g/mol) and sodium triacetoxyborohydride (0.172 g, 211.94 g/mol). To the resultant slurry, add glacial acetic acid (0.032 mL, 5.4×10−4 mol) and stir at ambient temperature under N2 for 3 h. Partition between CH2Cl2 (3 mL) and 1.0 N NaOH (10 mL), then separate the layers and chromatograph the CH2Cl2 layer using [10% (2.0M NH3 in MeOH)/90% CH2Cl2] as eluent. Obtained 0.16 g white solid-foam upon evaporation.

reactant | 7-(2-aminoethylamino)-2,5-dimethyl-3-(4-chloro-2,6-dimethylphenyl)-pyrazolo [1,5-a] pyrimidine | 5.4×10−4 mol, 0.183 g | NCCNC1=CC(=NC=2N1N=C(C2C2=C(C=C(C=C2C)Cl)C)C)C | C18H22ClN5
reactant | cyclohexanone | C1(CCCCC1)=O | C6H10O
reactant | sodium triacetoxyborohydride | 0.172 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 5.4×10−4 mol, 0.032 mL | C(C)(=O)O | C2H4O2
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
product | 7-(2-(Cyclohexylamino)ethylamino)-2,5-dimethyl-3-(4-chloro-2,6-dimethylphenyl)-pyrazolo[1,5-a] pyrimidine | 0.16 g | C1(CCCCC1)NCCNC1=CC(=NC=2N1N=C(C2C2=C(C=C(C=C2C)Cl)C)C)C | C24H32ClN5
